US08034938B2
tert-Butyl [(11S)-5-oxido-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]methylcarbamate (1.69 g, 4.57 mmol) was dissolved in 20 mL of CH2Cl2 and treated with 2 mL of concentrated NH4OH solution. The mixture was stirred rapidly and then p-toluenesulfonyl chloride (958 mg, 5.02 mmol) was carefully added. Rapid stirring was continued for 2 hours. The reaction mixture was treated with 25 mL of CH2Cl2 and 25 mL of H2O. The layers were separated and the organic portion was washed with 2% Na2CO3 solution (3×20 mL), H2O and brine. The organic portion was dried over Na2SO4, filtered and concentrated under reduced pressure. Chromatography (SiO2, 10-30% CMA/CHCl3) gave tert-butyl [(11S)-6-amino-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]methylcarbamate (1.39 g) as a salmon colored foam.

reactant | tert-Butyl [(11S)-5-oxido-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]methylcarbamate | 4.57 mmol, 1.69 g | [O-][N+]1=CC2=C(C3=CC=CC=C13)N1C(=N2)COC[C@@H]1CNC(OC(C)(C)C)=O | C19H22N4O4
reactant | NH4OH | 2 mL | [NH4+].[OH-]
reactant | p-toluenesulfonyl chloride | 5.02 mmol, 958 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | H2O | 25 mL | O | H2O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl [(11S)-6-amino-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-yl]methylcarbamate | 1.39 g | NC1=NC2=CC=CC=C2C2=C1N=C1N2[C@H](COC1)CNC(OC(C)(C)C)=O | C19H23N5O3
